US07576074B2
(3S,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine (2.30 g, 13.1 mmol) and potassium acetate (12.8 g, 131 mmol) were stirred in dimethylformamide (25 mL) at 140° C. for 20 h. The mixture was partitioned between ethyl acetate and water. The organic portion was washed twice with water, then with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl acetate as a brown oil (2.53 g, 12.7 mmol, 97% yield). 1H NMR (400 MHz, CDCl3): 4.14-4.02 (m, 3H), 3.81-3.72 (m, 1H), 3.37-3.31 (m, 1H), 3.09 (dt, 1H), 3.00 (dd, 1H), 2.21-2.00 (m, 3H), 2.10 (s, 3H), 1.90-1.67 (m, 3H), 1.39-1.24 (m, 1H); MS (EI) for C10H17NO3: 200 (MH+).

reactant | (3S,8aS)-3-(Chloromethyl)hexahydro-1H-pyrrolo[2,1-c][1,4]oxazine | 13.1 mmol, 2.30 g | ClC[C@@H]1CN2[C@H](CO1)CCC2 | C8H14ClNO
reactant | potassium acetate | 131 mmol, 12.8 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl acetate | 12.7 mmol, 2.53 g, 97% yield | C(C)(=O)OC[C@@H]1CN2[C@H](CO1)CCC2 | C10H17NO3
